US07723332B2
According to general procedure C, 4-Bromobenzene sulfonyl chloride (0.40 g, 1.56 mmol) and cyclobutylamine (0.33 mL, 3.90 mmol) were stirred together in dry dichloromethane (5 mL) for 16 hours. 4-bromo-N-cyclobutylbenzenesulfonamide (0.13 g) was provided after purification. MS (ESI) m/z 290. HPLC purity 95.6% at 210-370 nm, 9.1 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min., 85/15-5/95 (ammonium formate buffer pH=3.5/ACN+MeOH) for 10 min., hold 4 min.

reactant | 4-Bromobenzene sulfonyl chloride | 1.56 mmol, 0.40 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | cyclobutylamine | 3.90 mmol, 0.33 mL | C1(CCC1)N | C4H9N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-bromo-N-cyclobutylbenzenesulfonamide | 0.13 g | BrC1=CC=C(C=C1)S(=O)(=O)NC1CCC1 | C10H12BrNO2S
